US08334417B2
2-Isopropylbromobenzene
To an initial charge of 65 ml of 48% aqueous HBr are added, in portions, 13.5 g [0.1 mol] of 2-isopropylaniline. The resulting thick suspension is stirred at 80° C. for 15 minutes. It is then cooled to −10° C., and a solution of 8 g [0.116 mol] of NaNO2 in 35 ml of water is added dropwise within approx. 1 h at such a rate that the temperature does not exceed −5° C. 80 mg of sulphamic acid are added. Then the thin suspension of the diazonium salt, cooled to −10° C., is metered within about 30 minutes into a solution, heated to 70° C., of 13.9 g [0.05 mol] of FeSO4×7H2O in 65 ml of 62% aqueous HBr. The reaction mixture is then stirred for another 1 hour without further heating and allowed to cool to room temperature, and admixed with 125 ml of water, the phases are separated and the aqueous phase is extracted three times with 50 ml each time of methylene chloride. The combined organic phases are washed twice with 25 ml each time of water, dried and concentrated under reduced pressure. This gives 18.75 g of an oil which, according to GC, contains 82.3% 2-isopropylbromobenzene (77.5% of theory).

reactant | 2-isopropylaniline | 0.1 mol, 13.5 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | NaNO2 | 0.116 mol, 8 g | N(=O)[O-].[Na+]
reactant | sulphamic acid | 80 mg | S(N)(O)(=O)=O | H3NO3S
reactant | HBr | 65 ml | Br | BrH
reactant | HBr | 65 ml | Br | BrH
solvent | water | 35 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 2-Isopropylbromobenzene | C(C)(C)C1=C(C=CC=C1)Br | C9H11Br
